US04233242
The reaction was carried out by moderately introducing gaseous ammonia, with stirring, into a mixture of 17.0 g of the reaction mixture (which was prepared by oxidizing 1-phenyl ethanol with oxygen and which contained 1.263 m mol/g of peroxide compounds), 2 g of acetophenone, 0.02 g of EDTA.2Na and 2 g of the silica gel used in Example 2, for 6 hours, at a temperature of 120° C. The yield of the acetophenone-azine thus produced was 3.9%.

reactant | ammonia | N | H3N
reactant | 1-phenyl ethanol | C1(=CC=CC=C1)C(C)O | C8H10O
reactant | oxygen | O=O | O2
reactant | acetophenone | 2 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | EDTA | 0.02 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | acetophenone-azine | C/C(=N\N=C(\C1=CC=CC=C1)/C)/C2=CC=CC=C2 | C16H16N2
